US09290468B2
Step 7: methyl 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylate
To a solution of methyl 4-fluoro-5-((2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylate (1.82 g, 5.39 mmol) in DMF (10 mL) was added NBS (1.0 g, 5.65 mmol). After stirring for 4 h at ambient temperature, the reaction was quenched by saturated NH4Cl (aq.). The solution was extracted with ethyl acetate (30 mL×3). The combined organic extracts were washed with water (30 mL) and brine (30 mL) successively, dried over Na2SO4 and concentrated in vacuo to give the desired product (yellow solid, 2.02 g, 90.1% yield). 1H NMR (400 MHz, CDCl3): δ 8.84 (s, 1H), 8.60 (d, 1H), 7.59 (d, 1H), 7.29 (m, 1H), 6.77 (m, 1H), 4.04 (s, 3H).

reactant | methyl 4-fluoro-5-((2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylate | 5.39 mmol, 1.82 g | FC1=C(C(=CC2=C1N=NS2)C(=O)OC)NC2=C(C=CC=C2)Cl | C14H9ClFN3O2S
reactant | NBS | 5.65 mmol, 1.0 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylate | 2.02 g, 90.1% yield | FC1=C(C(=CC2=C1N=NS2)C(=O)OC)NC2=C(C=C(C=C2)Br)Cl | C14H8BrClFN3O2S
